US07504403B2
1-[3-(Tert-butyldimethylsilyloxymethyl)-phenyl]-propan-2-ol:
To a stirring solution of (3-bromobenzyloxy)-tert-butyldimethylsilane (7.0 g, 24 mmol) in tetrahydrofuran (100 mL) under an atmosphere of nitrogen was added magnesium turnings (0.73 g, 30 mmol) and a crystal of iodine. The mixture was heated to reflux for 1 h, cooled to 0° C. and copper (I) iodide (4.57 g, 24 mmol) was added. After stirring at 0° C. for 5 min, (R)-(+)-propylene oxide was added and the mixture was stirred for 2 h. A mixture of ammonium chloride and ammonium hydroxide (5:1, 100 mL) was added, the biphasic mixture was stirred vigorously until the copper salts dissolved, and the layers were separated. The aqueous layer was extracted with ethyl acetate, and the organic extracts were dried over magnesium sulfate and purified by flash column chromatography (ethyl acetate/hexanes). 1H NMR (CDCl3) 7.28 (m, 1H), 7.22 (m, 1H), 7.17 (s, 1H), 7.10 (d, 1H) 4.73 (s, 2H), 4.00 (m, 1H), 2.77 (d, 1H), 2.70 (d, 1H), 1.60 (s, 1H), 1.24 (d, 3H), 0.94 (s, 9H), 0.10 (s, 6H).

reactant | (3-bromobenzyloxy)-tert-butyldimethylsilane | 24 mmol, 7.0 g | BrC=1C=C(CO[Si](C)(C)C(C)(C)C)C=CC1 | C13H21BrOSi
reactant | magnesium | 30 mmol, 0.73 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | (R)-(+)-propylene oxide | C1[C@@H](C)O1 | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 24 mmol, 4.57 g | [Cu]I
catalyst | copper | [Cu] | Cu
product | 1-[3-(Tert-butyldimethylsilyloxymethyl)-phenyl]-propan-2-ol | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)CC(C)O | C16H28O2Si
